US07504411B2
A solution of 1-benzoyl-4-(2,4-difluorobenzoyl)piperidine (40 g, 120 mmol), methyl thioglycolate (12 mL, 130 mmol) in dimethylformamide (500 mL) was stirred at room temperatute for 12 h. The solvent was evaporated off in vacuo and the residue treated with water and ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography eluting hexane/ethyl acetate to give 3-(1-benzoylpiperidin-4-yl)-6-fluorobenzo[b]thiophene-2-carboxylic acid (11.8 g, 26%) as an oil.

reactant | 1-benzoyl-4-(2,4-difluorobenzoyl)piperidine | 120 mmol, 40 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)F)F)=O | C19H17F2NO2
reactant | methyl thioglycolate | 130 mmol, 12 mL | C(CS)(=O)OC | C3H6O2S
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 3-(1-benzoylpiperidin-4-yl)-6-fluorobenzo[b]thiophene-2-carboxylic acid | 11.8 g, 26% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C=1C2=C(SC1C(=O)O)C=C(C=C2)F | C21H18FNO3S
